US05104889
Production of 2-tert-butyl-4-(2-thiazolylamino)-5,6,7,8-tetrahydronaphthol
Pyridine (3.71 ml) was dissolved in 137 ml of dichloroethane, followed by addition of 1.26 ml of titanium tetrachloride. The mixture was heated under reflux for 15 minutes. Then, 5.00 g of 2-tert-butyl-5,6,7,8-tetrahydro-1,4-naphthoquinone and 2.29 g of 2-aminothiazole were added, and the mixture was heated under reflux for 2 hours. The reaction mixture was cooled to room temperature and filtered through Celite pad. The insoluble matter was washed with ethyl acetate. The filtrate was concentrated, and the crude product thus obtained was dissolved in 49 ml of tetrahydrofuran. To the solution was added a solution of 38.9 g of sodium hydrosulfite in 145 ml of water, and the mixture was stirred at room temperature for 15 minutes and then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and concentrated. The thus-obtained crude product was purified by silica gel column chromatography (diethyl ether-hexane =2:3) and washed with isopropyl ether to give 0.86 g of the desired compound as a colorless solid.

reactant | Pyridine | 3.71 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-tert-butyl-5,6,7,8-tetrahydro-1,4-naphthoquinone | 5.00 g | C(C)(C)(C)C=1C(C=2CCCCC2C(C1)=O)=O | C14H18O2
reactant | 2-aminothiazole | 2.29 g | NC=1SC=CN1 | C3H4N2S
reactant | sodium hydrosulfite | 38.9 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | dichloroethane | 137 ml | ClC(C)Cl | C2H4Cl2
solvent | tetrahydrofuran | 49 ml | O1CCCC1 | C4H8O
solvent | water | 145 ml | O | H2O
catalyst | titanium tetrachloride | 1.26 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 2-tert-butyl-4-(2-thiazolylamino)-5,6,7,8-tetrahydronaphthol | 0.86 g | C(C)(C)(C)C1=C(C=2CCCCC2C(=C1)NC=1SC=CN1)O | C17H22N2OS
